US04120830
2,6,9,10,10-Pentamethyl-1-oxa-spiro[4.5]decan-6-ol
2,6,9,10,10-Pentamethyl-1-oxa-spiro[4.5]deca-3,6-diene, used as starting material in step a) hereinabove could be prepared from 1-hydroxy-2,5,6,6-tetramethyl-1-(3-hydroxybut-1-yn-1-yl)-cyclohexane by treating said carbinol with a 30% aqueous solution of H2SO4 as indicated in Swiss Pat. No. 544,733. The compound possessed moreover very interesting organoleptic properties and consequently could advantageously be used as flavouring and perfuming agents. It develops a very powerful natural fruity, minty character reminiscent of certain perfuming notes typical of black-currant fruits.

reactant | 2,6,9,10,10-Pentamethyl-1-oxa-spiro[4.5]deca-3,6-diene | CC1OC2(C=C1)C(=CCC(C2(C)C)C)C | C14H22O
reactant | 1-hydroxy-2,5,6,6-tetramethyl-1-(3-hydroxybut-1-yn-1-yl)-cyclohexane | OC1(C(CCC(C1(C)C)C)C)C#CC(C)O | C14H24O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | carbinol | CO | CH4O
product | 2,6,9,10,10-Pentamethyl-1-oxa-spiro[4.5]decan-6-ol | CC1OC2(CC1)C(CCC(C2(C)C)C)(O)C | C14H26O2
